US07001897B2
To a solution of p-nitrobenzyl (1R,5S,6S)-2-(1-{4-[2-(t-butyldimethylsilyloxy)ethylcarbamoyl]-1,3-thiazol-2-yl]azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (605.3 mg, 0.84 mmol) in tetrahydrofuran (30 ml) were added acetic acid (0.15 ml, 2.6 mmol) and a solution of 1 M tetrabutylammonium fluoride in tetrahydrofuran (2.5 ml, 2.5 mmol) in an ice bath and the mixture was stirred for 1 hour at room temperature. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by: chromatography on a silica gel column using toluene: acetonitrile (2:3) as the eluant to afford p-nitrobenzyl (1R,5S,6S)-2-{1-[4-(2-hydroxyethylcarbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (383.7 mg, yield 75%) as a pale yellow solid.

reactant | p-nitrobenzyl (1R,5S,6S)-2-(1-{4-[2-(t-butyldimethylsilyloxy)ethylcarbamoyl]-1,3-thiazol-2-yl]azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 0.84 mmol, 605.3 mg | [Si](C)(C)(C(C)(C)C)OCCNC(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C32H43N5O8S2Si
reactant | acetic acid | 2.6 mmol, 0.15 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 mmol, 2.5 ml | O1CCCC1 | C4H8O
product | p-nitrobenzyl (1R,5S,6S)-2-{1-[4-(2-hydroxyethylcarbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 383.7 mg, yield 75% | OCCNC(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C26H29N5O8S2
